US05637600
2-Methoxy-5-Phenoxysulfonylbenzoic acid
To a rapidly stirred mixture of 2-methoxy-5-chlorosulfonylbenzoic acid (5.0 g, 20 mmol) and phenol (1.88 g, 20 mmol) in water (100 mL) was added dropwise a solution of sodium hydroxide (16 mL, 10%; 40 mmol) over 10 min. The mixture was stirred for 18 h, and then extracted with ether. The aqueous phase was acidified to pH 1 with cone. HCl and the white precipitate filtered off to give the title compound (4.05 g).

reactant | 2-methoxy-5-chlorosulfonylbenzoic acid | 20 mmol, 5.0 g | COC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)Cl | C8H7ClO5S
reactant | phenol | 20 mmol, 1.88 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | 40 mmol, 16 mL | [OH-].[Na+]
solvent | water | 100 mL | O | H2O
product | 2-Methoxy-5-Phenoxysulfonylbenzoic acid | 4.05 g | COC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)OC1=CC=CC=C1 | C14H12O6S
